US09079866B2
1-{[4′-(2-Aminopyrimidin-5-yl)-3′-fluorobiphenyl-2-yl]sulfonyl}-N-methylazetidine-3-carboxamide
The title compound was prepared using conditions analogous to those used to make Example 6 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrimidin-2-amine and 1-((2-bromophenyl)sulfonyl)-N-methylazetidine-3-carboxamide. MS (ESI): mass calcd. for C21H20FN5O3S, 441.13; m/z found, 441.9 [M+H]+. 1H NMR (500 MHz, DMSO-δ6) δ 8.52 (s, 2H), 8.02 (d, J=7.9, 1H), 7.84 (d, J=4.8, 1H), 7.79-7.72 (m, 1H), 7.69-7.63 (m, 1H), 7.61-7.55 (m, 1H), 7.45 (d, J=7.5, 1H), 7.33 (d, J=11.7, 1H), 7.27 (d, J=7.8, 1H), 6.89 (s, 2H), 3.70 (t, J=7.0, 2H), 3.63 (t, J=8.0, 2H), 3.19-3.08 (m, 1H), 2.56 (d, J=4.4, 3H).

reactant | 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrimidin-2-amine | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)C=1C=NC(=NC1)N | C16H19BFN3O2
reactant | 1-((2-bromophenyl)sulfonyl)-N-methylazetidine-3-carboxamide | BrC1=C(C=CC=C1)S(=O)(=O)N1CC(C1)C(=O)NC | C11H13BrN2O3S
product | 1-{[4′-(2-Aminopyrimidin-5-yl)-3′-fluorobiphenyl-2-yl]sulfonyl}-N-methylazetidine-3-carboxamide | NC1=NC=C(C=N1)C1=C(C=C(C=C1)C1=C(C=CC=C1)S(=O)(=O)N1CC(C1)C(=O)NC)F | C21H20FN5O3S
